US07977364B2
Tertio-butyl-6-benzyloxy-3-cyclohexyl-1H-indazole-1-carboxylate
At 0° C. di-tert-butyldicarbonate (36.38 g, 0.166 mol) in acetonitrile (340 ml) was added on a mixture of 6-benzyloxy-3-cyclohexyl-1H-indazole (42.50 g, 0.138 mol), TEA (22 ml, 0.152 mol), acetonitrile (460 ml) and DMAP (3.40 g, 0.027 mol).

reactant | di-tert-butyldicarbonate | 0.166 mol, 36.38 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 6-benzyloxy-3-cyclohexyl-1H-indazole | 0.138 mol, 42.50 g | C(C1=CC=CC=C1)OC1=CC=C2C(=NNC2=C1)C1CCCCC1 | C20H22N2O
reactant | acetonitrile | 340 ml | C(C)#N | C2H3N
reactant | acetonitrile | 460 ml | C(C)#N | C2H3N
catalyst | DMAP | 0.027 mol, 3.40 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | butyl-6-benzyloxy-3-cyclohexyl-1H-indazole-1-carboxylate | C(CCC)OC(=O)N1N=C(C2=CC=C(C=C12)OCC1=CC=CC=C1)C1CCCCC1 | C25H30N2O3
